US08703742B2
2-Bromo-3-ethoxy-4-methoxy-benzaldehyde
Ethyl bromide (2.88 g, 26.4 mmol) was added to a mixture of 2-bromo-3-hydroxy-4-methoxybenzaldehyde (5.08 g, 22 mmol) and potassium carbonate (4.56 g, 33 mmol) in anhydrous DMF (50 mL) at room temperature under nitrogen. The reaction mixture was stirred at 35° C. for 18 h, diluted with EtOAc (150 mL), washed with water (2×50 mL), brine, dried over Na2SO4 and concentrated to give crude product as a white solid. Purification by silica column chromatography (eluant: 30% EtOAc in Hexanes) to generate 5.65 g (99% yield) of the title compound as a white solid. 1H NMR (400 MHz, CDCl3) δ (ppm) 10.26 (s, 1H), 7.73 (d, J=8.4 Hz, 1H), 6.95 (d, J=8.8 Hz, 1H), 4.08 (q, J=7.1 Hz, 2H), 3.95 (s, 3H), 1.46 (t, J=7.0 Hz, 3H); MS (ESI) m/z=261 (M+1, positive).

reactant | Ethyl bromide | 26.4 mmol, 2.88 g | C(C)Br | C2H5Br
reactant | 2-bromo-3-hydroxy-4-methoxybenzaldehyde | 22 mmol, 5.08 g | BrC1=C(C=O)C=CC(=C1O)OC | C8H7BrO3
reactant | potassium carbonate | 33 mmol, 4.56 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 2-Bromo-3-ethoxy-4-methoxy-benzaldehyde | 5.65 g, 99% yield | BrC1=C(C=O)C=CC(=C1OCC)OC | C10H11BrO3
